### PR TITLE
feat: TateCurve baseChange

### PR DESCRIPTION
**Pull request by WilliamCoram**
PR proving `WeierstrassCurve.tateCurve_baseChange`

There are a few more statements I claim mathlib is missing. We can move them out of mathlib folders if that is preferred.

co-authored by Samuel Yin (and Claude)

~~depends on #1085~~

### CODE REVIEW

File: FLT/Slop/NumberTheory/TsumDivisorsAntidiagonal.lean [hunk 1]
```diff
@@ -0,0 +1,132 @@
...
+
+/-- The Lambert series rearrangement
+`∑_{m≥1} c(m)rᵐ/(1-rᵐ) = ∑_{N≥1} (∑_{d ∣ N} c(d))rᴺ` over a Hausdorff topological field,
+with the analytic inputs as hypotheses: `hgeo` says each row `rᵐ/(1-rᵐ)` has its geometric
+expansion `∑_{j≥1} r^{mj}`, and `hsum` says the double series is (unconditionally)
+summable. Given these, the double series is regrouped along the fibres of `(m, j) ↦ mj`,
+which are exactly the divisor pairs of `N`. -/
+theorem tsum_lambert_of_summable (r : 𝕜) (c : ℕ → 𝕜)
+    (hgeo : ∀ m : ℕ+, HasSum (fun j : ℕ ↦ r ^ ((m : ℕ) * (j + 1)))
+      (r ^ (m : ℕ) / (1 - r ^ (m : ℕ))))
```
Comment (kbuzzard) [inline FLT/Slop/NumberTheory/TsumDivisorsAntidiagonal.lean:88]: Is this the same as "r is topologically nilpotent"? (gemini says yes)

File: FLT/Mathlib/Topology/Algebra/ValuativeRel/ValuativeTopology.lean [hunk 2]
```diff
@@ -30,3 +46,36 @@ instance : T2Space K := by
     fun h ↦ lt_irrefl _ (show valuation K x < valuation K x from h)⟩
   rw [IsValuativeTopology.mem_nhds_zero_iff]
   exact ⟨Units.mk0 (valuation K x) ((valuation K).ne_zero_iff.mpr hx), fun y hy ↦ hy⟩
+
+/-- The open ball `{x ∈ 𝒪[K] | v(x) < γ}` of the ring of integers is an ideal:
+ultrametrically it is closed under addition, and multiplying by an integral element only
+shrinks the valuation. -/
+def ValuativeRel.integerBallIdeal (γ : (ValueGroupWithZero K)ˣ) :
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/ValuativeRel/ValuativeTopology.lean:53]: Isn't this `openBallIdeal`?

Comment (kbuzzard) [reply FLT/Mathlib/Topology/Algebra/ValuativeRel/ValuativeTopology.lean:53]: Apparently not :-)

File: FLT/Slop/NumberTheory/TsumDivisorsAntidiagonal.lean (hunk 1 above)
Comment (WilliamCoram) [reply FLT/Slop/NumberTheory/TsumDivisorsAntidiagonal.lean:88]: [ChatGPT](https://chatgpt.com/c/6a4e7a60-70e8-83ed-bbfa-8f430a3da767) gave this counterexampler to topologically nilpotent implying hgeo.

Comment (WilliamCoram) [reply FLT/Slop/NumberTheory/TsumDivisorsAntidiagonal.lean:88]: I pushed an updated version of the file. It details how we can use topNil instead - but we also have to further assume k is complete. I am unsure what one is better, and at this point it may be better if I give up on thinking it belongs in mathlib.
